US07378418B2
279C. Preparation of 5-(4-Fluorophenyl)-4-(pyridin-4-yl)pyridazin-3(2H)-one
To a solution of 2-benzyl-5-(4-fluorophenyl)-4-(pyridin-4-yl)pyridazin-3(2H)-one (1.04 g, 2.91 mmol) in toluene (15 mL) was added aluminum chloride (970 mg, 7.28 mmol). The reaction was stirred at 90° C. for 30 min. After cooling to RT, the reaction mixture was poured into water (50 mL). The resulting mixture was extracted with EtOAc (3×50 mL). The combined organic layers were washed with saturated aqueous NaHCO3, saturated aqueous NaCl. The organic layer was dried (Na2SO4), filtered and concentrated. The resulting residue was triturated with EtOAc-hexane to give the title compound, 5-(4-fluorophenyl)-4-(pyridin-4-yl)pyridazin-3(2H)-one as an off-white solid (560 mg, 70%). LC/MS (method A): RT=1.25 min, (M+H)+=268.

reactant | 2-benzyl-5-(4-fluorophenyl)-4-(pyridin-4-yl)pyridazin-3(2H)-one | 2.91 mmol, 1.04 g | C(C1=CC=CC=C1)N1N=CC(=C(C1=O)C1=CC=NC=C1)C1=CC=C(C=C1)F | C22H16FN3O
reactant | aluminum chloride | 7.28 mmol, 970 mg | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | water | 50 mL | O | H2O
solvent | toluene | 15 mL | C1(=CC=CC=C1)C | C7H8
product | 5-(4-fluorophenyl)-4-(pyridin-4-yl)pyridazin-3(2H)-one | 560 mg, 70% | FC1=CC=C(C=C1)C1=C(C(NN=C1)=O)C1=CC=NC=C1 | C15H10FN3O
